US07935722B2
Cyclopropanesulfonic acid[6-cyano-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-amide
Combine 6-amino-9-(3-fluoro-benzyl)6,7,8,9-tetrahydro-5H-carbazole-3-carbonitrile, hydrochloride salt (Preparation 54) (125 mg, 0.35 mmol) and triethylamine (0.195 mL, 1.4 mmol) in dichloromethane (3 mL) under nitrogen. Add cyclopropylsulfonylchloride (51 mg, 0.36 mmol) in dichloromethane (1 mL). Stir for 18 h at room temperature. Purify the reaction solution directly by flash chromatography, eluting with 20% ethyl acetate/hexane and then a gradient up to 50% ethyl acetateihexane to obtain 80 mg. Triturate in diethyl ether to obtain 61 mg (41%) of a tan solid. MS (ES): m/z 424 (M+1), 422 (M−1); 1H NMR(DMSO-d6): δ 7.98 (d, 1H, J=1.3 Hz), 7.56 (d, 1H, J=8.4 Hz), 7.41 (dd, 1H, J=8.4, 1.3 Hz), 7.36-7.30 (m, 2H), 7.07 (dt, 1H, J=8.7, 2.5 Hz), 6.88 (d, 1H, J=9.7 Hz), 6.83 (d, 1H, J=7.9 Hz), 5.42 (d, 2H, J=5.3 Hz), 3.68 (m, 1H), 3.10 (dd, 1H, J=15.4, 5.3 Hz), 2.90-2.81 (m, 1H), 2.79-2.61 (m, 3H), 2.13 (m, 1H), 1.86 (m, 1H), 0.98-0.91 (m, 4H).

reactant | 6-amino-9-(3-fluoro-benzyl)6,7,8,9-tetrahydro-5H-carbazole-3-carbonitrile, hydrochloride salt | 0.35 mmol, 125 mg | Cl.NC1CC=2C=3C=C(C=CC3N(C2CC1)CC1=CC(=CC=C1)F)C#N
reactant | triethylamine | 1.4 mmol, 0.195 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylsulfonylchloride | 0.36 mmol, 51 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Cyclopropanesulfonic acid[6-cyano-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-amide | 61 mg, 41% | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CC(=CC=C1)F)NS(=O)(=O)C1CC1 | C23H22FN3O2S
